US08383825B2
(S)-trimethyl{[methyl(oxo)phenyl-λ6-sulfanylidene]amino}silane
To a stirred pre-warmed solution of (S)-(+)-S-methyl-S-phenylsulphoximine (3 g, 18.7 mmol) in acetonitrile (2 mL) at 65° C. was added (trimethylsilyl)diethylamine (4.12 g, 21.1 mmol) dropwise via a syringe. The reaction was maintained at 65° C. and stirred for 3 hours. Additional amount of (trimethylsilyl)diethylamine (2 mL, 10.2 mmol) was added and the reaction mixture was stirred at 65° C. overnight. The reaction was then concentrated under reduced pressure and dried under vacuum to give the title compound. This material was used directly in next step of the synthesis without further purification.

reactant | (S)-(+)-S-methyl-S-phenylsulphoximine | 18.7 mmol, 3 g | C[S@@](=O)(=N)C1=CC=CC=C1 | C7H9NOS
reactant | (trimethylsilyl)diethylamine | 21.1 mmol, 4.12 g | C[Si](C)(C)N(CC)CC | C7H19NSi
reactant | (trimethylsilyl)diethylamine | 10.2 mmol, 2 mL | C[Si](C)(C)N(CC)CC | C7H19NSi
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (S)-trimethyl{[methyl(oxo)phenyl-λ6-sulfanylidene]amino}silane | C[Si](N=[S@](C1=CC=CC=C1)(=O)C)(C)C | C10H17NOSSi
